US06465663B2
5,5-dimethyl-5,6-dihydro-8-(2-thienyl)-naphthalene-2-carboxylic Acid (Compound E6)
To a solution of methyl 5,5-dimethyl-5,6-dihydro-8-(2thienyl)-2-naphthalenecarboxylate (Compound ES, 430.0 mg, 1.44 mmol) in 3.0 mL of EtOH and 3.0 mL THF was added NaOH (240.0 mg, 6.00 mmol; 3.0 mL of a 2N aqueous solution). The resulting solution was warmed to 35° C. for 6 h, cooled to room temperature and quenched with 1M HCl. The mixture was extracted with EtOAc and the combined organic layers washed with H2O and saturated aqueous NaCl before being dried over MgSO4. Removal of the solvents under reduced pressure afforded the title compound as a pale yellow solid.

reactant | methyl 5,5-dimethyl-5,6-dihydro-8-(2thienyl)-2-naphthalenecarboxylate | 1.44 mmol, 430.0 mg | CC1(C=2C=CC(=CC2C(=CC1)C=1SC=CC1)C(=O)OC)C | C18H18O2S
reactant | NaOH | [OH-].[Na+]
solvent | EtOH | 3.0 mL | CCO | C2H6O
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
product | 5,5-dimethyl-5,6-dihydro-8-(2-thienyl)-naphthalene-2-carboxylic Acid | CC1(C=2C=CC(=CC2C(=CC1)C=1SC=CC1)C(=O)O)C | C17H16O2S
